US05677380
Into a 1 l four-necked flask, 25.0 g of glycidyl methacrylate, 25.0 g of n-butyl methacrylate, 10.0 g of 2,2'-azobis(4-methoxy-2,4-dimethylvaleronitrile), 5.0 g of n-dodecylmercaptan and 500 ml of dioxane were charged, dissolved and stirred. Then, stirring was continued under a nitrogen stream at 70° C. for 4 hours. The reaction solution was put into methanol to precipitate the resin. Purification was repeated with tetrahydrofuran/methanol, and then vacuum drying was conducted at 40° C. to obtain a resin powder. The obtained amount was 38.0 g. The weight average molecular weight as measured by GPC was 14,000 as calculated as polystyrene; the glass transition temperature (Tg) was 33° C.; and the epoxy equivalent was 205. 25 g of a glycidyl methacrylate/n-butyl methacrylate copolymer thus obtained, 6.5 g of an epoxy-type heat-curing agent (EX-611, manufactured by Nagase Chemicals Ltd.), 1.6 g of a curing catalyst (SI-190, manufactured by Shanshin Chemical Industry Co., Ltd.) and 77 g of diethylene glycol dimethyl ether were mixed and dissolved, followed by filtration with a 0.2 μm filter to obtain a planarizing material solution.

reactant | glycidyl methacrylate | 25.0 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | n-butyl methacrylate | 25.0 g | C(C(=C)C)(=O)OCCCC | C8H14O2
reactant | 2,2'-azobis(4-methoxy-2,4-dimethylvaleronitrile) | 10.0 g | N(=NC(C#N)(CC(C)(OC)C)C)C(C#N)(CC(C)(C)OC)C | C16H28N4O2
reactant | n-dodecylmercaptan | 5.0 g | C(CCCCCCCCCCC)S | C12H26S
solvent | methanol | CO | CH4O
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | glycidyl methacrylate n-butyl methacrylate | 25 g | C(C(=C)C)(=O)OCC1CO1.C(C(=C)C)(=O)OCCCC | InChI=1S/C8H14O2.C7H10O3/c1-4-5-6-10-8(9)7(2)3;1-5(2)7(8)10-4-6-3-9-6/h2,4-6H2,1,3H3;6H,1,3-4H2,2H3
